US08026236B2
A: methyl 6-((methylsulfonyloxy)methyl)picolinate
Methanesulphonyl chloride (0.28 ml) was added at 0° C. to a solution of methyl 6-hydroxymethylpicolinate (500 mg), TEA (0.5 ml) in DCM (5 ml). The mixture was stirred at rt for 1 hour, then diluted with DCM (50 ml) and washed with water (2×30 ml). Organic layer dried, solvent removed under vacuum to give expected product methyl 6-((methylsulfonyloxy)methyl)picolinate (770 mg). 1H NMR (CDCl3) δ: 8.11 (d, 1H), 7.93 (t, 1H), 7.70 (d, 1H), 5.44 (s, 2H), 4.01 (s, 3H), 3.16 (s, 3H).

reactant | Methanesulphonyl chloride | 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 6-hydroxymethylpicolinate | 500 mg | OCC1=CC=CC(=N1)C(=O)OC | C8H9NO3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 6-((methylsulfonyloxy)methyl)picolinate | 770 mg | CS(=O)(=O)OCC1=CC=CC(=N1)C(=O)OC | C9H11NO5S
